.subckt vco_lc Vcont Iref VDD VSS voutp voutn
* XN0/XN1: cross-coupled NMOS pair (source N0/N1, Wn, l=45n)
XN0 voutn voutp vtail VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=1 m=1
XN1 voutp voutn vtail VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=1 m=1
* XN2/XN3: MOS varactors — drain and source both on Vcont, gate on the tank
* (source N2/N3, Wvar). These set TuningRange.
XN2 Vcont voutp Vcont VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
XN3 Vcont voutn Vcont VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
* XN4/XN5: tail current source + its diode-connected reference (source N4/N5,
* Wn6/Wn5). The W ratio sets the tail current, hence Power and OutputPower.
XN4 vtail Iref VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
XN5 Iref  Iref VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=15 nf=1 m=1
* XC0/XC1: fixed MiM tank capacitance (source C0/C1, C1). 16x16 um ~ 512 fF.
XC0 VDD voutp sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5 m=1
XC1 VDD voutp sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5 m=1
* XL0/XL1: the two tank inductors (source L0/L1, L1)
*
* Tie-off DUMMY devices glayout draws inside the generated cells.
* Real silicon (edge-effect matching), extracted by Magic, so they are
* declared here -- see write_lvs_compare_netlist(). NOT in the golden
* netlist, which stays frozen.
*
XDUMMY1 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=80 nf=1 m=1
XDUMMY2 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=255 nf=1 m=1
.ends vco_lc
