* FLAT netlist for layout -- derived copy of
*   example/test_vco/device_shaping/vco_lc_final_shaped.sp
* The golden netlist is NOT modified.
*
* HAND-REPAIRED, and why (placer SKILL.md Step 1 permits a repair to the
* derived flat copy that equivalence still holds across):
*   flatten_netlist.py / subckt_macros.flatten() DROPPED both XL0 and XL1.
*   `netlist_devices.parse_devices()` recognises only MODEL-NAMED devices;
*   a value-form `L`/`R`/`C` line (`L1 A n1 3.9860n`) matches no regex, so
*   vco_spiral_ind's body parsed as ZERO devices and the two tank coils
*   vanished (printed as `[XL0] vco_spiral_ind: []`, 10 devices -> 8).
*
* The coils are kept here as UNEXPANDED subckt calls, which is also what the
* layout wants: the physical cell is ONE drawn spiral (src/cells/primitives/
* inductor.py), not four lumped elements, and Magic cannot extract an
* inductor at all -- the coil is black-boxed on both sides of LVS.
*
* .subckt order is deliberate: vco_lc FIRST, because flatten_netlist.py's
* top_subckt_name() takes the file's first .subckt line as the top.
.subckt vco_lc Vcont Iref VDD VSS voutp voutn
XN0 voutn voutp vtail VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=1 m=1
XN1 voutp voutn vtail VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=1 m=1
XN2 Vcont voutp Vcont VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
XN3 Vcont voutn Vcont VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
XN4 vtail Iref VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=60 nf=1 m=1
XN5 Iref Iref VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=15 nf=1 m=1
XC0 VDD voutp sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5 m=1
XC1 VDD voutn sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5 m=1
XL0 VDD voutp vco_spiral_ind
XL1 VDD voutn vco_spiral_ind
*
* NOTE (hand-repaired -- generate_primitives.py::write_lvs_compare_netlist
* bug): the dummy block below was emitted before the LAST `.ends` in the
* file, which in a multi-.subckt netlist is the LAST subckt, not the TOP
* one.  Here that put both tie-off dummies inside `vco_spiral_ind` -- the
* cell LVS black-boxes -- so they were invisible on the schematic side
* while Magic extracts them at the top level of `vco_lc`.  Moved into
* `vco_lc`, where the geometry that produces them actually sits.
* Tie-off DUMMY devices glayout draws inside the generated cells.
* Real silicon (edge-effect matching), extracted by Magic, so they are
* declared here -- see write_lvs_compare_netlist(). NOT in the golden
* netlist, which stays frozen.
*
XDUMMY1 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=80 nf=1 m=1
XDUMMY2 VSS VSS VSS VSS sky130_fd_pr__nfet_01v8 l=0.5 w=255 nf=1 m=1
.ends vco_lc

.subckt vco_spiral_ind A B
Cpa A 0 146.35f
L1  A n1 3.9860n
R1  n1 B 9.2250
Cpb B 0 146.35f
.ends vco_spiral_ind
